US04228303
A. Ethyl 3-(3,4-Dimethoxyphenyl)alaninate
A 47 g (0.21 mole) portion of 3,4-dimethoxyphenylalanine in 450 ml of absolute ethanol was treated with 31 ml of concentrated H2SO4. The reaction mixture was refluxed for 5 hours and poured into 1.6 l. of H2O. The solution was basified with a solution of 61 g of K2CO3 in 200 ml of water. The basified solution was extracted with three 600 ml portions of ethyl acetate. The combined extracts were washed with 1.4 l. of water, dried over MgSO4 overnight and filtered. The filtrate was concentrated under reduced pressure to give 27 g (51%) of the desired product, a light yellow-brown viscous oil which crystallized upon refrigeration.

reactant | 3,4-dimethoxyphenylalanine | COC=1C=C(C[C@H](N)C(=O)O)C=CC1OC | C11H15NO4
reactant | H2SO4 | 31 ml | OS(=O)(=O)O | H2O4S
reactant | K2CO3 | 61 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethanol | 450 ml | C(C)O | C2H6O
solvent | water | 200 ml | O | H2O
product | Ethyl 3-(3,4-Dimethoxyphenyl)alaninate | 27 g, 51% | COC=1C=C(C=CC1OC)C[C@H](N)C(=O)OCC | C13H19NO4
